### PR TITLE
Parametricity Example

### PR DESCRIPTION
**Pull request by bond15**
Two "external parametricity" examples 

- Flipper with a boolean and nat implementation
- Stack with two list implementations (one reversed)

This was my first time playing with "agentic" coding or w/e the buzz words are. Codex using 5.6 Sol light model.
Unless prompted otherwise, I'll include an AI disclosure or workflow description in any future PRs.

### CODE REVIEW

File: Cubical/Categories/Instances/BinProduct/Cartesian.agda [hunk 1]
```diff
@@ -2,20 +2,48 @@
...
+pairCF :
+  {B : CartesianCategory ℓB ℓB'}
+  {C : CartesianCategory ℓC ℓC'}
+  {D : CartesianCategory ℓD ℓD'}
+  → CartesianFunctor B (C .CartesianCategory.C)
+  → CartesianFunctor B (D .CartesianCategory.C)
+  → CartesianFunctor B
+      ((C .CartesianCategory.C) ×C (D .CartesianCategory.C))
+pairCF F G .fst = F .fst ,F G .fst
+pairCF F G .snd c c' Γ =
```
Comment (bond15) [inline Cubical/Categories/Instances/BinProduct/Cartesian.agda:40]: generated equiv

File: Cubical/Categories/Instances/Sets/Cartesian.agda [hunk 2]
```diff
@@ -0,0 +1,25 @@
...
+open import Cubical.Categories.Instances.BinProduct.Cartesian
+  renaming (_×_ to _×CC_)
+open import Cubical.Categories.Instances.Sets
+open import Cubical.Categories.Instances.Sets.More
+open import Cubical.Categories.Instances.Sets.Properties
+
+×SetsCF : ∀ {ℓ} → CartesianFunctor (SETCC {ℓ} ×CC SETCC {ℓ}) (SET ℓ)
+×SetsCF .fst = ×Sets
+×SetsCF .snd c c' Γ =
+  isoToIsEquiv
```
Comment (bond15) [inline Cubical/Categories/Instances/Sets/Cartesian.agda:16]: generated equiv

File: Cubical/Categories/Presheaf/Constructions/Reindex.agda [hunk 3]
```diff
@@ -260,6 +262,19 @@ module _ {C : Category ℓC ℓC'} {D : Category ℓD ℓD'}
...
+  {F : Functor C D}{G : Functor D E}
+  {P : Presheaf C ℓP}{Q : Presheaf D ℓQ}{R : Presheaf E ℓR}
+  where
+  preservesUniversalElements-⋆PshHet :
+    (α : PshHet F P Q)
+    (β : PshHet G Q R)
+    → preservesUniversalElements α
+    → preservesUniversalElements β
+    → preservesUniversalElements (α ⋆PshHet β)
+  preservesUniversalElements-⋆PshHet α β α-pres β-pres ue =
```
Comment (bond15) [inline Cubical/Categories/Presheaf/Constructions/Reindex.agda:275]: I took ~2 hours to understand `preservesUniversalElements` and the definitions around it. 
I had a very hacky, in the weeds, approach to proving this by manually unpacking and reconstructing the equivs. The slop machine spit this out instantly, rendering me defeated.

File: Gluing/BiCartesianClosedCategory/BinaryLogicalRelation.agda [hunk 4]
```diff
@@ -0,0 +1,58 @@
+{-# OPTIONS --lossy-unification #-}
```
Comment (bond15) [inline Gluing/BiCartesianClosedCategory/BinaryLogicalRelation.agda:1]: Steven and I had the concrete outline for the Flipper example. 
This file (and StackParametricity) was generated in one shot by simply requesting something like "i want a second example for a queue interface with two different list implementations"

File: Gluing/BiCartesianClosedCategory/StackParametricity.agda [hunk 5]
```diff
@@ -0,0 +1,93 @@
+module Gluing.BiCartesianClosedCategory.StackParametricity where
```
Comment (bond15) [inline Gluing/BiCartesianClosedCategory/StackParametricity.agda:1]: fully generated

File: Gluing/BiCartesianClosedCategory/FlipperParametricity.agda [hunk 6]
```diff
@@ -0,0 +1,116 @@
...
+  FlipperLogicalRelation =
+    logicalRelation FlipperQuiver SETBiCCC EqSETᴰBCCCⱽ
+      ×SetsCF InterpBool InterpNat BoolNatRelationGenerators
+
+  flipper-representation-independence :
+    (client : FREE.C [ ⊤ , ⊤ + ⊤ ]) →
+      InterpBool .fst .F-hom client tt* ≡
+      InterpNat .fst .F-hom client tt*
+  flipper-representation-independence client
+    with FlipperLogicalRelation .F-homᴰ client (tt* , tt*) tt*
```
Comment (maxsnew) [inline Gluing/BiCartesianClosedCategory/FlipperParametricity.agda]: we don't use `with` abstraction, you can use eliminators/recursors for this

File: Gluing/BiCartesianClosedCategory/StackParametricity.agda [hunk 7]
```diff
@@ -0,0 +1,127 @@
...
+StackQuiver .+×⇒Quiver.Q .cod push = ↑ stack
+StackQuiver .+×⇒Quiver.Q .cod pop = ⊤ + ((↑ elem) × (↑ stack))
+
+private
+  module FREE =
+    BiCartesianClosedCategory
+      (FreeBiCartesianClosedCategory StackQuiver)
+
+headPop : List Bool →
+  Lift ℓ-zero Unit ⊎ Σ Bool (λ _ → List Bool)
```
Comment (maxsnew) [inline Gluing/BiCartesianClosedCategory/StackParametricity.agda]: Why are you using `Lift ℓ-zero Unit` ? And please use the sigma syntax `Σ[b \in Bool ] List Bool`

File: Cubical/Categories/Instances/Sets/Cartesian.agda (hunk 2 above)
Comment (maxsnew) [reply Cubical/Categories/Instances/Sets/Cartesian.agda:16]: this could be generated by `C-c C-a`

File: Cubical/Categories/Presheaf/Constructions/Reindex.agda [hunk 8]
```diff
@@ -189,6 +189,8 @@ module _ {C : Category ℓC ℓC'} {D : Category ℓD ℓD'} where
           (isUniversalToIsTerminal D Q _ _ preservesUE)
           (universalElementToTerminalElement C P ue')
 
+
```
Comment (maxsnew) [inline Cubical/Categories/Presheaf/Constructions/Reindex.agda:192]: random whitespace?

File: Gluing/BiCartesianClosedCategory/BinaryLogicalRelation.agda (hunk 4 above)
Comment (maxsnew) [reply Gluing/BiCartesianClosedCategory/BinaryLogicalRelation.agda:1]: Did you review it? I don't want to read anything that you "one shot" if you haven't. That's just passing the buck

File: Gluing/BiCartesianClosedCategory/BinaryLogicalRelation.agda [hunk 9]
```diff
@@ -0,0 +1,58 @@
...
+  private
+    FREE : BiCartesianClosedCategory _ _
+    FREE = FreeBiCartesianClosedCategory Q
+
+    module FREE = BiCartesianClosedCategory FREE
+    module D = BiCartesianClosedCategory D
+    module Dⱽ = BiCartesianClosedCategoryⱽ Dⱽ
+
+  module _
+    (product : CartesianFunctor (D.CC ×CC D.CC) D.C)
```
Comment (maxsnew) [inline Gluing/BiCartesianClosedCategory/BinaryLogicalRelation.agda]: why is this a parameter?

File: Gluing/BiCartesianClosedCategory/BinaryLogicalRelation.agda [hunk 10]
```diff
@@ -0,0 +1,58 @@
...
+    (F G : CartesianFunctor FREE.CC D.C)
+    where
+
+    pointwise : CartesianFunctor FREE.CC D.C
+    pointwise =
+      _∘CF_ {C = FREE.CC} {D = D.CC ×CC D.CC}
```
Comment (maxsnew) [inline Gluing/BiCartesianClosedCategory/BinaryLogicalRelation.agda]: are these implicits necessary?

File: Gluing/BiCartesianClosedCategory/FlipperParametricity.agda [hunk 11]
```diff
@@ -0,0 +1,116 @@
...
+
+  FlipperQuiver : +×⇒Quiver ℓ-zero ℓ-zero
+  FlipperQuiver .+×⇒Quiver.ob = OB
+  FlipperQuiver .+×⇒Quiver.Q .mor = MOR
+  FlipperQuiver .+×⇒Quiver.Q .dom init = ⊤
+  FlipperQuiver .+×⇒Quiver.Q .dom flip = ↑ X
+  FlipperQuiver .+×⇒Quiver.Q .dom read = ↑ X
+  FlipperQuiver .+×⇒Quiver.Q .cod init = ↑ X
+  FlipperQuiver .+×⇒Quiver.Q .cod flip = ↑ X
+  FlipperQuiver .+×⇒Quiver.Q .cod read = ⊤ + ⊤
```
Comment (maxsnew) [inline Gluing/BiCartesianClosedCategory/FlipperParametricity.agda:53]: you can re-order this so that the `dom` and `cod` lines for each generator are next to each other. Makes it easier to read

File: Gluing/BiCartesianClosedCategory/StackParametricity.agda [hunk 12]
```diff
@@ -0,0 +1,127 @@
...
+open import Cubical.Categories.Instances.Free.BiCartesianClosedCategory.Quiver
+open import Cubical.Categories.Instances.Free.BiCartesianClosedCategory.Forded
+  as FreeBiCCC renaming ([_,_] to [_,+_])
+open import Gluing.BiCartesianClosedCategory.BinaryLogicalRelation
+
+open Functor
+open Section
+
+data OB : Type where
+  elem : OB
```
Comment (maxsnew) [inline Gluing/BiCartesianClosedCategory/StackParametricity.agda]: what's the point of making `elem` a base type if it just gets interpreted as `Bool`?

File: Gluing/BiCartesianClosedCategory/FlipperParametricity.agda [hunk 13]
```diff
@@ -0,0 +1,116 @@
...
+  ... | inr u =
+    inr ((tt* , u) ,
+      cong (λ b' → (if b' then inl tt* else inr tt*) , inr u) p ,
+      tt*)
+
+  FlipperLogicalRelation =
+    logicalRelation FlipperQuiver SETBiCCC EqSETᴰBCCCⱽ
+      ×SetsCF InterpBool InterpNat BoolNatRelationGenerators
+
+  flipper-representation-independence :
```
Comment (maxsnew) [inline Gluing/BiCartesianClosedCategory/FlipperParametricity.agda:153]: Can't you get a much stronger result than this? You can prove by induction that the relational interpretation of any type that doesn't mention the base type is equality (aka the Identity extension lemma). Then you can get this result for any domain and codomain that doesn't mention the base type, not just closed terms of boolean type.

File: Gluing/BiCartesianClosedCategory/StackParametricity.agda [hunk 14]
```diff
@@ -0,0 +1,127 @@
...
+      }
+
+StackLogicalRelation =
+  logicalRelation StackQuiver SETBiCCC EqSETᴰBCCCⱽ
+    ×SetsCF HeadFirst ReverseStored StackRelationGenerators
+
+stack-representation-independence :
+  (client : FREE.C [ ⊤ , (↑ stack) ]) →
+  HeadFirst .fst .F-hom client tt* ≡
+    rev (ReverseStored .fst .F-hom client tt*)
```
Comment (maxsnew) [inline Gluing/BiCartesianClosedCategory/StackParametricity.agda]: see my comments in the other file about IEL

**Review by maxsnew — CHANGES_REQUESTED** [review]

File: Gluing/BiCartesianClosedCategory/BinaryLogicalRelation.agda (hunk 10 above)
Comment (bond15) [reply Gluing/BiCartesianClosedCategory/BinaryLogicalRelation.agda]: Yellow without them

Comment (maxsnew) [reply Gluing/BiCartesianClosedCategory/BinaryLogicalRelation.agda]: maybe infix notation is not such a good choice then

File: Gluing/BiCartesianClosedCategory/FlipperParametricity.agda (hunk 13 above)
Comment (bond15) [reply Gluing/BiCartesianClosedCategory/FlipperParametricity.agda:153]: Yes and it is in principle very simple to implement. I'm hitting performance issues. Instead of proving an equivalence, I'm trying to get R\[A\](u,v) -> u =_A v to type check in a reasonable amount of time for relations in Set.

File: Cubical/Categories/Instances/BinProduct/Cartesian.agda [hunk 15]
```diff
@@ -2,20 +2,154 @@
...
+      module bd = BinProductNotation (C.bp (b , d))
+      module ab = BinProductNotation (C.bp (a , b))
+      module cd = BinProductNotation (C.bp (c , d))
+      module outer =
+        BinProductNotation (C.bp ((a C.× c) , (b C.× d)))
+
+  ×CF : CartesianFunctor (C × C) C.C
+  ×CF .fst = C.×F
+  ×CF .snd (a , b) (c , d) Γ =
+    subst isEquiv
```
Comment (stschaef) [inline Cubical/Categories/Instances/BinProduct/Cartesian.agda]: What is this subst doing?

File: Gluing/BiCartesianClosedCategory/BinaryLogicalRelation.agda (hunk 10 above)
Comment (stschaef) [reply Gluing/BiCartesianClosedCategory/BinaryLogicalRelation.agda]: I agree, we probably want a name like `compCF` or `seqCF` that isn't infix. Or I have sometimes had success with larger mixfix operators that deal with implicits like this, i.e. `_∘CF[_][_]_` or smth like this where you put the needed implicits in the brackets.

File: Gluing/BiCartesianClosedCategory/FlipperParametricity.agda (hunk 13 above)
Comment (stschaef) [reply Gluing/BiCartesianClosedCategory/FlipperParametricity.agda:153]: Is the code with performance issues pushed anywhere? I'd like to take a look

**Review by stschaef — COMMENTED** [review]
small naming comment + curiosity about performance issues

File: Gluing/BiCartesianClosedCategory/FlipperParametricity.agda (hunk 13 above)
Comment (maxsnew) [reply Gluing/BiCartesianClosedCategory/FlipperParametricity.agda:153]: Regardless if you want we can just merge this PR in and leave a note/issue to work on the IEL

File: Cubical/Categories/Instances/BinProduct/Cartesian.agda (hunk 15 above)
Comment (bond15) [reply Cubical/Categories/Instances/BinProduct/Cartesian.agda]: removed

File: Gluing/BiCartesianClosedCategory/FlipperParametricity.agda (hunk 13 above)
Comment (bond15) [reply Gluing/BiCartesianClosedCategory/FlipperParametricity.agda:153]: I tried to use Set level reasoning in the case for the exponential. That path had many mismatched type indices and lead to very bad type checking performance. Using exponential and displayed exponential notation somehow fixed that which surprised me.

File: Gluing/BiCartesianClosedCategory/IdentityExtension.agda [hunk 16]
```diff
@@ -0,0 +1,295 @@
...
+  baseFreeInterpretation≡ (p ×-free q) i =
+    Σ (baseFreeInterpretation≡ p i)
+      (λ _ → baseFreeInterpretation≡ q i)
+  baseFreeInterpretation≡ (p +-free q) i =
+    baseFreeInterpretation≡ p i ⊎ baseFreeInterpretation≡ q i
+  baseFreeInterpretation≡ (p ⇒-free q) i =
+    baseFreeInterpretation≡ p i → baseFreeInterpretation≡ q i
+  open import Cubical.Functions.FunExtEquiv
+
+  identityExtension :
```
Comment (maxsnew) [inline Gluing/BiCartesianClosedCategory/IdentityExtension.agda:86]: How much simpler would this be if you only proved bi-implication rather than equivalence? It's a bit cluttered now.

File: Gluing/BiCartesianClosedCategory/IdentityExtension.agda [hunk 17]
```diff
@@ -0,0 +1,295 @@
...
+open import Gluing.BiCartesianClosedCategory.BinaryLogicalRelation
+
+open Functor
+open Section
+
+private
+  variable
+    ℓ ℓQ ℓQ' : Level
+
+data BaseFree {O : Type ℓQ} : BiCCCExpr O → Type ℓQ where
```
Comment (maxsnew) [inline Gluing/BiCartesianClosedCategory/IdentityExtension.agda]: Would it be simpler to use `BiCCCExpr Empty` and define a function from `inj : BiCCCExpr Empty → BiCCCExpr O` and then below replace e.g., `∀ {A} → BaseFree A →
      ⟨ Left .fst .F-ob A ⟩ ≡ ⟨ Right .fst .F-ob A ⟩` with `∀ A→ ⟨ Left .fst .F-ob (inj A) ⟩ ≡ ⟨ Right .fst .F-ob (inj A) ⟩`

File: Gluing/BiCartesianClosedCategory/IdentityExtension.agda [hunk 18]
```diff
@@ -0,0 +1,295 @@
...
+    ∀ {A B} (freeA : BaseFree A) (freeB : BaseFree B)
+      (e : FreeBiCCC.Expr Q A B)
+      (x : ⟨ Left .fst .F-ob A ⟩)
+      (y : ⟨ Right .fst .F-ob A ⟩) →
+    PathP (λ i → baseFreeInterpretation≡ freeA i) x y →
+    PathP (λ i → baseFreeInterpretation≡ freeB i)
+      (Left .fst .F-hom e x) (Right .fst .F-hom e y)
+  identityExtensionHom freeA freeB e x y p =
+    equivFun (identityExtension freeB _ _)
+      (LR .F-homᴰ e (x , y) (invEq (identityExtension freeA x y) p))
```
Comment (maxsnew) [inline Gluing/BiCartesianClosedCategory/IdentityExtension.agda]: Awesome!

File: Cubical/Categories/Instances/BinProduct/Cartesian.agda [hunk 19]
```diff
@@ -2,20 +2,151 @@
...
+      module ac = BinProductNotation (C.bp (a , c))
+      module bd = BinProductNotation (C.bp (b , d))
+
+    unshuffle : ∀ {Γ a b c d} →
+      Σ (C.C [ Γ , (a C.× b) ]) (λ _ → C.C [ Γ , (c C.× d) ]) →
+      C.C [ Γ , ((a C.× c) C.× (b C.× d)) ]
+    unshuffle {a = a} {b = b} {c = c} {d = d} (f , g) =
+      outer._,p_
+        (ac._,p_ (f C.⋆ ab.π₁) (g C.⋆ cd.π₁))
+        (bd._,p_ (f C.⋆ ab.π₂) (g C.⋆ cd.π₂))
```
Comment (maxsnew) [inline Cubical/Categories/Instances/BinProduct/Cartesian.agda]: ,p is infix, so why not use it infix

File: Cubical/Categories/Instances/BinProduct/Cartesian.agda [hunk 20]
```diff
@@ -2,20 +2,151 @@
...
+      h C.⋆ (ac.π₂ C.×p bd.π₂)
+      where
+      module ac = BinProductNotation (C.bp (a , c))
+      module bd = BinProductNotation (C.bp (b , d))
+
+    unshuffle : ∀ {Γ a b c d} →
+      Σ (C.C [ Γ , (a C.× b) ]) (λ _ → C.C [ Γ , (c C.× d) ]) →
+      C.C [ Γ , ((a C.× c) C.× (b C.× d)) ]
+    unshuffle {a = a} {b = b} {c = c} {d = d} (f , g) =
+      outer._,p_
```
Comment (bond15) [inline Cubical/Categories/Instances/BinProduct/Cartesian.agda]: infix

File: Cubical/Categories/Instances/Free/BiCartesianClosedCategory/Quiver.agda [hunk 21]
```diff
@@ -14,6 +15,14 @@ module _ (ob : Type ℓ) where
     _×_ _+_ _⇒_ : BiCCCExpr → BiCCCExpr → BiCCCExpr
     ⊥ ⊤ : BiCCCExpr
 
+embedClosed : ∀ {O : Type ℓ} → BiCCCExpr Empty.⊥ → BiCCCExpr O
```
Comment (maxsnew) [inline Cubical/Categories/Instances/Free/BiCartesianClosedCategory/Quiver.agda]: Can also just use the recursor?

File: Gluing/BiCartesianClosedCategory/IdentityExtension.agda [hunk 22]
```diff
@@ -70,226 +64,144 @@ module _
...
+    Σ (closedInterpretation≡ A i)
+      (λ _ → closedInterpretation≡ B i)
+  closedInterpretation≡ (A + B) i =
+    closedInterpretation≡ A i ⊎ closedInterpretation≡ B i
+  closedInterpretation≡ (A ⇒ B) i =
+    closedInterpretation≡ A i → closedInterpretation≡ B i
+  closedInterpretation≡ ⊥ = refl
+  closedInterpretation≡ ⊤ = refl
+
+  mutual
```
Comment (maxsnew) [inline Gluing/BiCartesianClosedCategory/IdentityExtension.agda]: I don't think you need to declare explicit mutual blocks in the latest versions of Agda

Comment (maxsnew) [reply Gluing/BiCartesianClosedCategory/IdentityExtension.agda]: You just have to give all type declarations before definitions

**Review by maxsnew — APPROVED** [review]
LGTM
